US09421237B2
N-pyrazineformyl-L-phenylalanyl-L-phenylalanine
The product of N-pyrazineformyl-L-phenylalanyl-L-phenylalanine methyl ester (1.52 g, 3.52 mmol) in Preparation example 4 was dissolved with 10 ml of acetone, 2N NaOH was added dropwise slowly under the condition of ice water bath until a pH value of 12˜13 was obtained, and the solution was kept reacting under the condition of an ice water bath, the reaction was monitored by TLC and completed after 2 h. Hydrochloric acid was added dropwise under the condition of ice water bath until a pH value of 2˜3 was obtained, a large amount of white solid was produced, the generated precipitate was filtered, washed with diethyl ether followed by airing to dry, 1.33 g of white product was obtained with a yield of 90.5%, the melting point of the white solid: 194-196° C.; 1H-NMR (DMSO-d6, 300 MHz): δ 12.88 (s, 1H), 9.10 (s, 1H), 8.90-8.87 (m, 1H), 8.77-8.73 (m, 1H), 8.75-8.65 (m, 2H), 7.24-7.14 (m, 10H), 4.84-4.80 (m, 1H), 4.53-4.50 (m, 1H), 3.14-2.89 (m, 4H).

reactant | N-pyrazineformyl-L-phenylalanyl-L-phenylalanine methyl ester | 3.52 mmol, 1.52 g | COC([C@@H](NC([C@@H](NC(=O)C1=NC=CN=C1)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C24H24N4O4
reactant | NaOH | 2N | [OH-].[Na+]
reactant | Hydrochloric acid | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-pyrazineformyl-L-phenylalanyl-L-phenylalanine | 1.33 g, yield of 90.5% | N1=C(C=NC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C23H22N4O4
